US07186714B2
A solution of 1-[8-amino-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]ethanone (150 mg, 0.56 mmol) in N,N-dimethylformamide dimethyl acetal (5 mL) was heated at reflux for 6 days. The mixture was cooled to room temperature, ethyl acetate and water were added. The phases were separated and the organic layer was washed with brine. The aqueous layer was extracted with ethyl acetate and the combined organics were dried over magnesium sulfate. Filtration and concentration followed by silica gel chromatography (1:1 acetone:ethyl acetate) gave 130 mg (62%) of N′-[3-[(2E)-3-(dimethylamino)-2-propenoyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide as a foam. 1H NMR (CDCl3): δ 9.28 (d, 1H), 8.53 (s, 1H), 7.76 (q, 2H), 7.62 (d, 1H), 7.13 (t, 2H), 6.87 (m, 2H), 5.12 (d, 1H), 2.4–3.3 (m, 12H); MS m/z 380 (M+1).

reactant | 1-[8-amino-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-3-yl]ethanone | 0.56 mmol, 150 mg | NC=1C=2N(C=CC1)C(=C(N2)C2=CC=C(C=C2)F)C(C)=O | C15H12FN3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
reactant | N,N-dimethylformamide dimethyl acetal | 5 mL | COC(N(C)C)OC | C5H13NO2
product | N′-[3-[(2E)-3-(dimethylamino)-2-propenoyl]-2-(4-fluorophenyl)imidazo[1,2-α]pyridin-8-yl]-N,N-dimethylimidoformamide | 130 mg, 62% | CN(/C=C/C(=O)C1=C(N=C2N1C=CC=C2N=CN(C)C)C2=CC=C(C=C2)F)C | C21H22FN5O
